US04618622
7-Hydroxy-3,4-dimethylcoumarin ethanesulfonate
5.0 g of 7-hydroxy-3,4-dimethylcoumarin were dissolved in 20 ml of H2O/1.1 g of NaOH at room temperature, while stirring, and 3.4 g of ethanesulfonyl chloride were added. The mixture was stirred overnight, and the precipitate was filtered off under suction and recrystallized from ethanol.

reactant | 7-hydroxy-3,4-dimethylcoumarin | 5.0 g | OC1=CC=C2C(=C(C(OC2=C1)=O)C)C | C11H10O3
reactant | ethanesulfonyl chloride | 3.4 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | H2O | 20 ml, 1.1 g | O | H2O
solvent | NaOH | [OH-].[Na+]
product | 7-Hydroxy-3,4-dimethylcoumarin ethanesulfonate | C(C)S(=O)(=O)O.OC1=CC=C2C(=C(C(OC2=C1)=O)C)C | InChI=1S/C11H10O3.C2H6O3S/c1-6-7(2)11(13)14-10-5-8(12)3-4-9(6)10;1-2-6(3,4)5/h3-5,12H,1-2H3;2H2,1H3,(H,3,4,5)
